* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM7154-1.2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 2.3
C1 OUT 0 10µ
C2 N003 0 1µ
C3 N004 0 1µ
C4 N002 0 1µ
R1 IN N001 100K
Rload OUT 0 12
X§U1 N004 OUT N002 0 N003 N003 N001 IN ADM7154_5 Vreg=2.1022 Vref=1.2152
.tran 5m startup
.lib ADM7154_5.sub
.backanno
.end
