* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM1281-2.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N010 VIN 10
C4 N019 0 10n
R2 VIN N001 0.5m
R4 N006 N009 10
R22 N001 N003 10
R21 VIN N002 10
C5 N021 0 10n
R9 N015 N019 100k
R10 N019 0 11.5k
R24 VOUT N014 51.1k
R16 VIN N016 10K
R7 VIN N013 51.1k
R8 N013 0 3.01k
R13 N015 N017 100k
R14 N017 0 51.1k
R11 N015 N018 100k
R12 N018 0 4.99k
C7 0 N009 22n
C2 N013 0 10n
V4 VIN 0 PWL(0 0.01 50m 12 180m 12 250m 0)
R26 N002 N007 100
R27 N003 N008 100
C9 N008 N007 100n
C8 N007 0 100n
C10 0 N008 100n
R15 N020 VIN 100K
Rload VOUT 0 1k
M3 N001 N004 VOUT VOUT PSMN0R925YLC Tambient=55 RthetaJA=35 Cheatsink=0 Imult=9.43E+1 Iexponent=1.00E-3 C6=1.64E-4 R6=4.40E-3 C5=8.20E-4 R5=2.20E-2 C4=3.30E-3 R4=1.10E-1 C3=1.00E-1 R3=2.70E-1 C2=1.55E-1 R2=0.1m C1=0 R1=0.1m
R18 N005 N009 10
R19 N004 N009 10
R20 VIN N002 10
R23 N001 N003 10
R6 N011 0 6.04k
R5 VIN N011 51.1k
C1 N011 0 100n
C6 N010 0 1µ
C3 N015 0 1µ
R17 VOUT N012 1k
Cload VOUT 0 1000µ
R25 N014 0 4.99k
R3 VIN N001 0.5m
M1 N001 N006 VOUT VOUT PSMN0R925YLC Tambient=55 RthetaJA=35 Cheatsink=0 Imult=9.43E+1 Iexponent=1.00E-3 C6=1.64E-4 R6=4.40E-3 C5=8.20E-4 R5=2.20E-2 C4=3.30E-3 R4=1.10E-1 C3=1.00E-1 R3=2.70E-1 C2=1.55E-1 R2=0.1m C1=0 R1=0.1m
M2 N001 N005 VOUT VOUT PSMN0R925YLC Tambient=55 RthetaJA=35 Cheatsink=0 Imult=9.43E+1 Iexponent=1.00E-3 C6=1.64E-4 R6=4.40E-3 C5=8.20E-4 R5=2.20E-2 C4=3.30E-3 R4=1.10E-1 C3=1.00E-1 R3=2.70E-1 C2=1.55E-1 R2=0.1m C1=0 R1=0.1m
X§U1 NC_01 VIN N002 N003 N017 N018 N007 N008 N013 N019 N014 N011 N010 N020 NC_02 N009 0 0 N016 N021 N015 N012 ADM1281-2 oc_filt_select=1 oc_trip_select=1 fhdis=0 oc_retry_dis=0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 250m startup
.lib ADM1281-2.sub
.backanno
.end
