* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM7155-03.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 3.4
C3 OUT 0 10µ
R1 N003 N005 110k
R2 N005 0 100K
C4 N003 0 1µ
C1 N004 0 1µ
C2 N002 0 1µ
R3 IN N001 100K
R5 OUT 0 25
X§U1 N004 OUT N002 0 N005 N003 N001 IN ADM7154_5 Vreg=3.2022 Vref=1.2152
.tran 5m startup
.lib ADM7154_5.sub
.backanno
.end
