* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM1272.asc
* Generated by LTspice 24.1.9 for Windows.
M2 N001 N003 VOUT VOUT PSMN4R8100BSE Tambient=55 RthetaJA=35 Cheatsink=0 Imult=9.43E+1 Iexponent=1.00E-3 C6=1.64E-4 R6=4.40E-3 C5=8.20E-4 R5=2.20E-2 C4=3.30E-3 R4=1.10E-1 C3=1.00E-1 R3=2.70E-1 C2=1.55E-1 R2=0.1m C1=0 R1=0.1m
R7 N003 N009 10
V1 VIN 0 PWL(2m 0.01 20m 48 450m 48 500m 0)
R12 N001 VIN 1m
R25 VOUT N015 100K
R26 N015 0 2.55K
R27 N012 N011 20K
C3 0 N012 47n
C7 VOUT N010 1µ
R28 VIN N008 100K
C8 0 N013 1µ
C10 N014 0 1µ
R32 N014 N019 100K
R37 N019 0 6.34K
R39 N017 N016 1Meg
R40 N017 N018 1Meg
R41 N021 N020 1Meg
R42 VIN N004 100
C2 N008 0 100n
C1 N024 0 10n
C4 N025 0 47n
C5 N026 0 22n
R1 N017 N021 100k
R3 VIN N005 10
R4 N001 N006 10
C6 0 N004 100n
R5 N008 0 2.5K
R2 VOUT 0 15K
M1 N001 N002 VOUT VOUT PSMN4R8100BSE Tambient=55 RthetaJA=35 Cheatsink=0 Imult=9.43E+1 Iexponent=1.00E-3 C6=1.64E-4 R6=4.40E-3 C5=8.20E-4 R5=2.20E-2 C4=3.30E-3 R4=1.10E-1 C3=1.00E-1 R3=2.70E-1 C2=1.55E-1 R2=0.1m C1=0 R1=0.1m
R6 N002 N009 10
R9 N007 0 1.5K
R10 VIN N007 100K
C9 N007 0 100n
R11 N022 N025 2.32K
R13 N025 0 100K
R14 N026 0 330K
R15 N023 N026 15K
V3 N017 0 3.3
R16 N001 VIN 1m
C11 VOUT 0 12µ
R17 N014 0 100K
I1 VOUT 0 4 load
X§U1 0 N019 N014 N022 N023 N018 N007 N024 N013 N010 N011 NC_01 N008 N008 N021 N020 N016 N015 0 N004 VOUT N009 N005 N006 ADM1272 rndstart_dis=0 fhdis=0 restart_time=100 PWRGD_sense=0 rnd_cycles=5 oc_filt_select=0 oc_trip_select=2 oc_retry_dis=0 fast_gate_dis=0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 600m 0
.lib ADM1272.sub
.backanno
.end
