* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM1278.asc
* Generated by LTspice 24.1.9 for Windows.
R1 VCC ENABLE 10
C4 PSET 0 10n
R2 ENABLE D .5m
R4 G1 GATE 10
R22 D S- 10
R21 ENABLE S+ 10
C5 TIMER 0 10n
R9 VCAP PSET 100k
R10 PSET 0 11.5k
R24 vOUT PWGIN 51k
R16 ENABLE PWRGD 10K
R7 ENABLE OV 51k
R8 OV 0 3k
R13 VCAP ISET 100k
R14 ISET 0 51k
R11 VCAP ISTART 100k
R12 ISTART 0 5k
C7 0 GATE 22n
C2 OV 0 10n
V4 ENABLE 0 PWL(0 0.01 50M 12 180M 12 250M 0)
R26 S+ MO+ 100
R27 S- MO- 100
C9 MO- MO+ 100n
C8 MO+ 0 100n
C10 0 MO- 100n
R15 _FAULT ENABLE 100K
Rload vOUT 0 {RLOAD}
M3 D N001 vOUT vOUT PSMN0R925YLC Tambient=55 RthetaJA=35 Cheatsink=0 Imult=9.43E+1 Iexponent=1.00E-3 C6=1.64E-4 R6=4.40E-3 C5=8.20E-4 R5=2.20E-2 C4=3.30E-3 R4=1.10E-1 C3=1.00E-1 R3=2.70E-1 C2=1.55E-1 R2=0.1m C1=0 R1=0.1m
R18 N002 GATE 10
R19 N001 GATE 10
R20 ENABLE S+ 10
R23 D S- 10
R6 UV 0 6k
R5 ENABLE UV 51k
C1 UV 0 100n
C6 VCC 0 1µ
C3 VCAP 0 1µ
R17 vOUT N003 1k
Cload vOUT 0 {CLOAD}
R25 PWGIN 0 5k
R3 ENABLE D .5m
M1 D G1 vOUT vOUT PSMN0R925YLC Tambient=55 RthetaJA=35 Cheatsink=0 Imult=9.43E+1 Iexponent=1.00E-3 C6=1.64E-4 R6=4.40E-3 C5=8.20E-4 R5=2.20E-2 C4=3.30E-3 R4=1.10E-1 C3=1.00E-1 R3=2.70E-1 C2=1.55E-1 R2=0.1m C1=0 R1=0.1m
M2 D N002 vOUT vOUT PSMN0R925YLC Tambient=55 RthetaJA=35 Cheatsink=0 Imult=9.43E+1 Iexponent=1.00E-3 C6=1.64E-4 R6=4.40E-3 C5=8.20E-4 R5=2.20E-2 C4=3.30E-3 R4=1.10E-1 C3=1.00E-1 R3=2.70E-1 C2=1.55E-1 R2=0.1m C1=0 R1=0.1m
X§U2 _RETRY ENABLE S+ S- ISET ISTART MO+ MO- OV PSET PWGIN UV VCC _FAULT CSOUT GATE 0 0 PWRGD TIMER VCAP N003 ADM1278 oc_filt_select=1 oc_trip_select=1 fhdis=0 oc_retry_dis=0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 250m startup
.param RLOAD=1K CLOAD=1000u
.lib ADM1278.sub
.backanno
.end
