* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM4854.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
V2 DI 0 PULSE(0 5 1u 10n 10n 4.35u 8.7u)
R1 Y Z 120
R2 Y Z 120
X§U1 0 N001 DI RO Y Z Y Z ADM4854
.tran 100u
.lib ADM4854.sub
.backanno
.end
