* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM705.asc
* Generated by LTspice 24.1.9 for Windows.
V1 VCC 0 5
R1 0 WDO 1Meg
R2 0 _RESET 1Meg
R4 0 _PFO 1Meg
V2 _MR 0 PULSE(3.5 0 1 10n 10n 500m 2 1)
V4 WDI 0 PULSE(0 3.5 1m 10n 10n 100m 2)
X§U1 WDI WDO VCC NC_01 _PFO _MR _RESET 0 ADM705
.tran 4 startup
.lib ADM705.sub
.backanno
.end
