* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM707.asc
* Generated by LTspice 24.1.9 for Windows.
V1 VCC 0 PULSE(0 5 0 1 1 0 2)
R2 0 _RESET 1Meg
R3 0 RESET 1Meg
R4 0 _PFO 1Meg
V2 _MR 0 PULSE(3.5 0 1 10n 10n 500m 2 1)
V3 N001 0 5
X§U2 RESET 0 VCC N001 _PFO _MR _RESET ADM707
.tran 2.5 startup
.lib ADM707.sub
.backanno
.end
