* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM7171.asc
* Generated by LTspice 24.1.9 for Windows.
C2 0 N001 1n
V1 IN 0 3.5
Rload OUT 0 4
C1 OUT 0 4.7µ Rser=1.5m
R1 OUT N002 15K
R2 N002 0 10K
X§U1 IN N002 IN N001 OUT 0 ADM7171
.tran 5m startup
.lib ADM7171.sub
.backanno
.end
