* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADN4620.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 VDD1 0 VIO1 DIN1+ DIN1- DIN2+ DIN2- 0 VDD2 0 DOUT2- DOUT2+ DOUT1- DOUT1+ 0 ADN4620
V1 VDD1 0 1.8
V2 VDD2 0 1.8
V3 VIO1 0 3.3
R1 N001 DOUT1+ 49.9
R2 N001 DOUT1- 49.9
V4 DIN2+ 0 PULSE(0 0.4 0 2p 2p 400p 800p)
V5 DIN2- 0 PULSE(0.4 0 0 2p 2p 400p 800p)
R3 N002 DOUT2+ 49.9
R4 DOUT2- N002 49.9
C1 DOUT1+ 0 5.1p
C2 0 DOUT1- 5.1p
C3 DOUT2+ 0 5.1p
C4 0 DOUT2- 5.1p
V6 DIN1+ 0 PULSE(0.1 0 0 2p 2p 100n 200n)
V7 DIN1- 0 PULSE(0 0.1 0 2p 2p 100n 200n)
.tran 4u
* NOTE 1: The Differential Output Voltage (VOD) is guaranteed only when the Output Load (RL) is 100 Ohms. \n               For any other RL values, VOD versus RL performance is not guaranteed.\nNOTE 2: Capacitors C1-4 model the external load parasitic capacitance.
.lib ADN4620.sub
.backanno
.end
