* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADN8834.asc
* Generated by LTspice 24.1.9 for Windows.
R3 N001 N004 256.1k
R4 N004 0 50.2k
L1 N009 TEC- 1µ Rser=1m
C2 TEC- 0 10µ Rser=2m
V1 VIN 0 5
C1 TEC+ 0 .1µ Rser=2m
C6 N001 0 .1µ
X§U1 0 N003 N006 N005 N007 TEC+ N006 N008 N002 N001 VIN VIN ITEC N008 N004 N009 VTEC VIN VIN 0 TEC- 0 ADN8834
V2 N007 0 SINE(1.25 200m 40 80m)
R1 N001 N002 6.65k
R2 N002 0 10k
RTEC TEC+ TEC- 1.5
R5 N005 N001 10k
R6 N005 0 10k
.tran 0.2 startup
.lib ADN8834.sub
.backanno
.end
