* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP121-1.2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5.5
C2 OUT 0 1µ
Rload OUT 0 22
C1 IN 0 1µ
X§U1 OUT MP_01 0 IN MP_02 IN ADP121 K=1/1500
.tran 10m startup
.lib ADP121.sub
.backanno
.end
