* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP150-3.0.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
Rload OUT 0 30
X§U1 IN 0 IN MP_01 OUT ADP150-x.x T=1.8Meg
C1 OUT 0 1µ
.tran 500u startup
.lib ADP150-x.x.sub
.backanno
.end
